US04447634
Preparation of 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitro-N-para-toluenesulfonylbenzamide (Compound 1).
A catalyst amount (ca. 10 gm) of N,N-dimethylaminopyridine (available from the Aldrich Chemical Co. Ltd.) was added to a stirred mixture of 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoic acid (260 gm, 0.72 moles) in 350 ml toluene under nitrogen. A solution of para-toluenesulfonylisocyanate (available from the Aldrich Chemical Co., Ltd., 180 gm, 0.94 moles) in toluene (150 ml) was then added dropwise to the above solution with stirring. After the addition was complete the mixture was brought to reflux for six hours. Toluene in the cooled solution was then removed in vacuo. The resulting waxy solid was further recrystalized from toluene to yield 170 gm (0.33 moles, 46%,) of the desired product.

reactant | 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoic acid | 0.72 moles, 260 gm | ClC1=C(OC=2C=CC(=C(C(=O)O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H7ClF3NO5
reactant | para-toluenesulfonylisocyanate | C1(=CC=C(C=C1)S(=O)(=O)N=C=O)C | C8H7NO3S
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitro-N-para-toluenesulfonylbenzamide | ClC1=C(OC=2C=CC(=C(C(=O)NS(=O)(=O)C3=CC=C(C=C3)C)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C21H14ClF3N2O6S
